US06310096B1
1.5 ml of 2,3-dimethylbuta-1,3-diene are added to the solution of 300 mg 5-(3-bromo-phenyl)-2-methoxyimino-5-oxo-pent-3-ynoic acid methyl ester in 1 ml toluene. The reaction mixture is heated for 24 hours at 130° in an autoclave. It is subsequently evaporated, stirred with petrol ether and filtered with suction. The filtrate is evaporated to give 300 mg of [2-(3- bromo-benzoyl)-4,5-dimethyl-cyclohexa-1,4-dienyl]-methoxyimino-acetic acid methyl ester as a resinous oil.

reactant | 2,3-dimethylbuta-1,3-diene | 1.5 ml | CC(=C)C(=C)C | C6H10
reactant | 5-(3-bromo-phenyl)-2-methoxyimino-5-oxo-pent-3-ynoic acid methyl ester | 300 mg | COC(C(C#CC(=O)C1=CC(=CC=C1)Br)=NOC)=O | C13H10BrNO4
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(3- bromo-benzoyl)-4,5-dimethyl-cyclohexa-1,4-dienyl]-methoxyimino-acetic acid methyl ester | 300 mg | COC(C(=NOC)C1=C(CC(=C(C1)C)C)C(C1=CC(=CC=C1)Br)=O)=O | C19H20BrNO4
